US07642264B2
2-(4-Chloro-phenyl)-6-(4-iodo-imidazol-1-yl)-4-methyl-pyridine
The title compound was prepared from 2-bromo-6-(4-chloro-phenyl)-4-methyl-pyridine (example A.22) (0.94 g, 3.0 mmol) and commercially available 4-iodo-imidazole (0.71 g, 3.3 mmol) according to the general procedure IVa. Obtained as a yellow gum (0.213 g, 18%). MS (ISP) 396.0 [(M+H)+].

reactant | 2-bromo-6-(4-chloro-phenyl)-4-methyl-pyridine | 3.0 mmol, 0.94 g | BrC1=NC(=CC(=C1)C)C1=CC=C(C=C1)Cl | C12H9BrClN
reactant | 4-iodo-imidazole | 3.3 mmol, 0.71 g | IC=1N=CNC1 | C3H3IN2
product | 2-(4-Chloro-phenyl)-6-(4-iodo-imidazol-1-yl)-4-methyl-pyridine | ClC1=CC=C(C=C1)C1=NC(=CC(=C1)C)N1C=NC(=C1)I | C15H11ClIN3
